US04040832
30 gm (0.103M) ethyl-o-nitrophenylacetylacetoacetate was added over a period of 15-20 minutes to a saturated ammoniacal ethanol solution (prepared by bubbling NH3 gas into 400 cc. absolute alcohol for 15- 20 minutes while cooling the solution to 0- 5° C.). The orangy mixture was stirred for 1 hour at 5°- 10° C. and then left in the refrigerator overnight. The ethyl-γ-2-nitrophenylacetoacetate crystals formed were filtered and dried in vacuum. Additional solid was obtained after evaporation of the filtrate and washing with water to remove any amide formed.

reactant | ethyl-o-nitrophenylacetylacetoacetate | 0.103M, 30 gm | C(C)OC(CC(=O)CC(CC1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C14H15NO6
reactant | ethanol | C(C)O | C2H6O
product | ethyl-γ-2-nitrophenylacetoacetate | C(C)OC(CC(=O)CC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H13NO5
